US05580872
8-(3-Amino-1-pyrrolidinyl)-4H-quinolizin-4-one-3-carboxylic acid hydrochloride
Ethyl 8-chloro-4H-quinolizin-4-one-3-carboxylate (1.0 g, 3.97 mmol), from Step 3, was dissolved in 20 mL of dry pyridine under a nitrogen atmosphere. To the resultant solution was added a solution of 1.85 g (9.92 mmol) of 3-(N-t-butoxycarbonylamino)pyrrolidine in 5 mL of dry pyridine and the reaction mixture was heated at 70° C. for 4.5 hours. The reaction mixture was then concentrated in vacuo in order to remove all of the pyridine. The dry residue (3.124 g) was purified by chromatography on silica gel eluted with 2% methanol in methylene chloride to afford 0.889 g (56% yield) of the title compound.

reactant | Ethyl 8-chloro-4H-quinolizin-4-one-3-carboxylate | 3.97 mmol, 1.0 g | ClC=1C=CN2C(C(=CC=C2C1)C(=O)OCC)=O | C12H10ClNO3
reactant | 3-(N-t-butoxycarbonylamino)pyrrolidine | 9.92 mmol, 1.85 g | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 8-(3-Amino-1-pyrrolidinyl)-4H-quinolizin-4-one-3-carboxylic acid hydrochloride | 0.889 g, 56% yield | Cl.NC1CN(CC1)C=1C=CN2C(C(=CC=C2C1)C(=O)O)=O | InChI=1S/C14H15N3O3.ClH/c15-9-3-5-16(8-9)10-4-6-17-11(7-10)1-2-12(13(17)18)14(19)20;/h1-2,4,6-7,9H,3,5,8,15H2,(H,19,20);1H
